US07820837B2
4-(chloromethyl)-7-hydroxy-2H-chromen-2-one
Ethyl 4-chloroacetoacetate (14.0 g, 85.0 mmol) was dissolved in conc. sulfuric acid (30 mL) under ice-cooling and resorcinol (8.81 g, 80.0 mmol) was added by small portions, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into iced water. The resulting solid was collected by filtration, washed with water and air dried to give the title compound (14.1 g, 84%).

reactant | Ethyl 4-chloroacetoacetate | 85.0 mmol, 14.0 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | resorcinol | 80.0 mmol, 8.81 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | water | O | H2O
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 4-(chloromethyl)-7-hydroxy-2H-chromen-2-one | 14.1 g, 84% | ClCC1=CC(OC2=CC(=CC=C12)O)=O | C10H7ClO3
